US08664257B2
(S)-3-{[1-(2-Fluoro-phenyl)-5-(3-methyl-oxetan-3-ylmethoxy)-1H-pyrazole-3-carbonyl]-amino}-3-(2-methyl-phenyl)-propionic acid
100 mg (0.2 mmol) of (S)-3-{[1-(2-fluoro-phenyl)-5-(3-methyl-oxetan-3-ylmethoxy)-1H-pyrazole-3-carbonyl]-amino}-3-(2-methyl-phenyl)-propionic acid ethyl ester were dissolved in a mixture of THF, MOH and water (2 ml each), and 14.5 mg (0.61 mmol) of lithium hydroxide were added. The mixture was stirred overnight at room temperature and the solvent removed. The residue was subjected to column chromatography (silica gel, DCM/MOH 9:1) to give 75 mg (75%) of the title compound.

reactant | (S)-3-{[1-(2-fluoro-phenyl)-5-(3-methyl-oxetan-3-ylmethoxy)-1H-pyrazole-3-carbonyl]-amino}-3-(2-methyl-phenyl)-propionic acid ethyl ester | 0.2 mmol, 100 mg | C(C)OC(C[C@@H](C1=C(C=CC=C1)C)NC(=O)C1=NN(C(=C1)OCC1(COC1)C)C1=C(C=CC=C1)F)=O | C27H30FN3O5
reactant | lithium hydroxide | 0.61 mmol, 14.5 mg | [OH-].[Li+]
solvent | THF | C1CCOC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | (S)-3-{[1-(2-Fluoro-phenyl)-5-(3-methyl-oxetan-3-ylmethoxy)-1H-pyrazole-3-carbonyl]-amino}-3-(2-methyl-phenyl)-propionic acid | 75 mg, 75% | FC1=C(C=CC=C1)N1N=C(C=C1OCC1(COC1)C)C(=O)N[C@@H](CC(=O)O)C1=C(C=CC=C1)C | C25H26FN3O5
